US07012075B2
To a solution of methyl N-isothiazol-3-yl-L-leucinate (160 mg, 0.70 mmol) in dichloromethane (3 mL) and acetic acid (0.5 mL) was added bromine (0.04 mL, 0.78 mmol). The solution was stirred for 45 min, then diluted with dichloromethane and washed with saturated aqueous NaHCO3 and brine, filtered through cotton and evaporated to give 220 mg of methyl N-(4-bromoisothiazol-3-yl)-L-leucinate.

reactant | methyl N-isothiazol-3-yl-L-leucinate | 0.70 mmol, 160 mg | S1N=C(C=C1)N[C@@H](CC(C)C)C(=O)OC | C10H16N2O2S
reactant | bromine | 0.78 mmol, 0.04 mL | BrBr | Br2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | methyl N-(4-bromoisothiazol-3-yl)-L-leucinate | 220 mg | BrC=1C(=NSC1)N[C@@H](CC(C)C)C(=O)OC | C10H15BrN2O2S
